US07223772B1
vi) 3-Bromo-2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridine
To a solution of 2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid (403 mg, 1.24 mmol) and NaHCO3 (355 mg, 3.4 eq) in DMF (10 ml) was added NBS (1.1 eq, 244 mg) and the resulting solution stirred at rt for 1.5 h. The mixture was diluted with water and extracted with ethyl acetate (3×10 ml). The combined organic phases were washed with water (3×10 ml), dried and concentrated in vacuo to give the title compound as a brown solid (390 mg, 85%). MH+ 358/359

reactant | 2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid | 1.24 mmol, 403 mg | FC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C(=O)O | C15H8F4N2O2
reactant | NaHCO3 | 355 mg, 3.4 eq | C(=O)(O)[O-].[Na+]
reactant | NBS | 244 mg, 1.1 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Bromo-2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridine | 390 mg, 85% | BrC=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC(=CC=C2)F | C14H7BrF4N2
